US08476255B2
Synthesis of methyl 3-(3,4-dimethoxyphenyl)-2-(4-methoxyphenyl)prop-2-enoate
3-(3,4-dimethoxyphenyl)-2-(4-methoxyphenyl)prop-2-enoic acid (2 g, 6.37 mmol) was dissolved in dimethyl formamide (DMF) (4 mL) and added potassium carbonate (K2CO3) (2.28 g, 16.6 mmol) followed by methyl iodide (CH3I) (0.48 mL, 7.64 mmol) drop wise. The reaction mixture was stirred for 2 hours at room temperature (RT) and the reaction was monitored by TLC. Upon the completion of reaction, K2CO3 was filtered and cold water (100 mL) was added to the filtrate. The resulting precipitate was filtered to get pale yellow solid (2 g, 100%).

reactant | 3-(3,4-dimethoxyphenyl)-2-(4-methoxyphenyl)prop-2-enoic acid | 6.37 mmol, 2 g | COC=1C=C(C=CC1OC)C=C(C(=O)O)C1=CC=C(C=C1)OC | C18H18O5
reactant | potassium carbonate | 16.6 mmol, 2.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 7.64 mmol, 0.48 mL | CI | CH3I
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethyl formamide | 4 mL | CN(C=O)C | C3H7NO
product | methyl 3-(3,4-dimethoxyphenyl)-2-(4-methoxyphenyl)prop-2-enoate | 2 g, 100% | COC=1C=C(C=CC1OC)C=C(C(=O)OC)C1=CC=C(C=C1)OC | C19H20O5
